US08034811B2
To a stirred mixture of isatoic anhydride (2.5 g) and triphenylphosphine (4.0 g) in THF (100 ml) at 0° C. was added drop-wise diisopropyl azodicarboxylate (3.0 ml), followed by addition (tetrahydro-pyran-4-yl)-methanol (1.78 g). The reaction mixture was stirred at room temperature for 15 hours, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (EtOAc/petroleum ether, 9/1) affording impure 1-(tetrahydro-pyran-4-ylmethyl)-1H-benzo[d][1,3]oxazine-2,4-dione. This material was treated with 27% sodium hydroxide (20 ml) at 50° C. for 48 hours. The mixture was cooled to room temperature and 37% hydrochloric acid (15 ml) was added. The mixture was extracted several times with EtOAc and the combined organic layers were washed with water, dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica (EtOAc/petroleum ether, 2/8) and gave the title compound. 13C-NMR (DMSO-d6) δ 170.0, 151.0, 134.4, 131.6, 113.9, 111.2, 109.7, 66.7, 47.8, 34.1, 30.4.

reactant | isatoic anhydride | 2.5 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.0 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (tetrahydro-pyran-4-yl)-methanol | 1.78 g | O1CCC(CC1)CO | C6H12O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(tetrahydro-pyran-4-ylmethyl)-1H-benzo[d][1,3]oxazine-2,4-dione | O1CCC(CC1)CN1C(OC(C2=C1C=CC=C2)=O)=O | C14H15NO4
